US07977358B2
C] 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
A blue-green suspension of 5-methyl-3-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester (700 mg, 3.03 mmol), molecular sieves 4A, 3-(trifluoromethoxy)benzeneboronic acid (1.25 g, 6.05 mmol), copper (II) acetate (824 mg, 4.54 mmol) and pyridine (0.48 ml, 6.05 mmol) in 14 ml CH2Cl2 was stirred under argon atmosphere and at room temperature for 5 days. The reaction mixture was diluted with CH2Cl2 and washed with a saturated solution of NaHCO3 and brine. The aqueous phases were extracted twice with CH2Cl2, the combined organic layers dried over magnesium sulfate, and evaporated. The residue was treated with EtOAc:toluene, 1:9, filtered off. The filtrate was evaporated and chromatographed twice (amino-phase silica gel, toluene:EtOAc 9:1) to afford the title compound as a colorless oil (638 mg, 54%). MS: 392.1 (MH+).

reactant | 5-methyl-3-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester | 3.03 mmol, 700 mg | C(C)OC(=O)C=1C(=NNC1C)C1=CC=NC=C1 | C12H13N3O2
reactant | 3-(trifluoromethoxy)benzeneboronic acid | 6.05 mmol, 1.25 g | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | pyridine | 6.05 mmol, 0.48 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 4.54 mmol, 824 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-Methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 638 mg, 54% | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1 | C19H16F3N3O3
